US09351974B2
Step f: Synthesis of 2-(1H-indazol-5-ylamino)-7-methyl-5,8-diphenyl-7,8-dihydropteridin-6(5H)-one
To a mixture of 2-chloro-7-methyl-5,8-diphenyl-7,8-dihydropteridin-6(5H)-one (175 mg, 0.5 mmol), 5-aminoindazole (99 mg, 0.75 mmol), in trifluoroethanol (2 mL) in a microwave reactor vial was added trifluoroacetic acid (171 mg). The vial was then sealed and heated in a microwave reactor at 125° C. for 30 minutes. The reaction mixture was then diluted with ethyl acetate (25 mL) and washed with aqueous saturated aq. sodium bicarbonate. The organic layer was dried (Na2SO4) and evaporated to give a crude material, which was then purified by silica gel column chromatography (eluent: 2% methanol in dichloromethane) to give the desired product (40%).

reactant | 2-chloro-7-methyl-5,8-diphenyl-7,8-dihydropteridin-6(5H)-one | 0.5 mmol, 175 mg | ClC1=NC=2N(C(C(N(C2C=N1)C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C19H15ClN4O
reactant | 5-aminoindazole | 0.75 mmol, 99 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | trifluoroacetic acid | 171 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroethanol | 2 mL | C(C(F)(F)F)O | C2H3F3O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-(1H-indazol-5-ylamino)-7-methyl-5,8-diphenyl-7,8-dihydropteridin-6(5H)-one | 40% | N1N=CC2=CC(=CC=C12)NC1=NC=2N(C(C(N(C2C=N1)C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C26H21N7O
